US07122580B2
(2S)-2,3-Bis-[(4′-trifluoromethyl-biphenyl-4-carbonyl)-amino]-propionic acid
(2S)-2,3-Diamino-propionic acid methyl ester (0.080 g, 0.421 mmol) was reacted with 4′-trifluoromethyl-biphenyl-4-carboxylic acid (0.224 g, 0.841 mmol) as described in general procedure A yielding the corresponding (2S)-3-bis-[(4′-trifluoromethyl-biphenyl-4-carbonyl)-amino]-propionic acid methyl ester which was then hydrolyzed as per general procedure C to yield the title compound (0.150 g, 60%). 1H-NMR(400 MHz, DMSOd6): 4.16 (m, 2H), 5.0 (m, 1H), 8.17 (m, 8H), 8.28 (m, 8H), 9.18 (m, 1H), 9.21 (d, 1H); LC/MS (m/z): 601.2 (M+1).

reactant | (2S)-2,3-Diamino-propionic acid methyl ester | 0.421 mmol, 0.080 g | COC([C@H](CN)N)=O | C4H10N2O2
reactant | 4′-trifluoromethyl-biphenyl-4-carboxylic acid | 0.841 mmol, 0.224 g | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O)(F)F | C14H9F3O2
product | (2S)-2,3-Bis-[(4′-trifluoromethyl-biphenyl-4-carbonyl)-amino]-propionic acid | 0.150 g, 60% | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)N[C@H](C(=O)O)CNC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)(F)F | C31H22F6N2O4
